US08754079B2
XIV.1 N-[trans-4-(2-Nitro-5-fluoro-phenoxy)-cyclohexyl]-2,2,2-trifluoro-acetamide
A reaction mixture of 0.071 g trans-4-(5-fluoro-2-nitro-phenoxy)-cyclohexylamine hydrochlorid, 0.05 g ethyltrifluoroacetate and 0.075 g triethylamine in 2 ml methanol was stirred overnight. The mixture was concentrated and partitioned between 5 ml EtOAc and 5 ml water. The organic phase was washed with water, HCl solution (2M) and water. The organic phase was dried and the solvent evaporated.

reactant | trans-4-(5-fluoro-2-nitro-phenoxy)-cyclohexylamine hydrochlorid | 0.071 g | Cl.FC=1C=CC(=C(O[C@@H]2CC[C@H](CC2)N)C1)[N+](=O)[O-]
reactant | ethyltrifluoroacetate | 0.05 g | C(C)OC(C(F)(F)F)=O | C4H5F3O2
reactant | triethylamine | 0.075 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 2 ml | CO | CH4O
product | N-[trans-4-(2-Nitro-5-fluoro-phenoxy)-cyclohexyl]-2,2,2-trifluoro-acetamide | [N+](=O)([O-])C1=C(O[C@@H]2CC[C@H](CC2)NC(C(F)(F)F)=O)C=C(C=C1)F | C14H14F4N2O4
